US07776869B2
Step 1: 1-methyl-4-(2-nitro-4-(trifluoromethyl)phenylsulfonyl)piperazine
To a solution of 2-nitro-4-(trifluoromethyl)benzene-1-sulfonyl chloride (1.0 g, 1.73 mmol) in CH2Cl2 (50 mL) was added 1-methylpiperazine (0.40 mL, 3.6 mmol). The resulting mixture was allowed to stir at room temperature overnight, then diluted with CH2Cl2 (30 mL), the organic layer was washed with 9% aq. Na2CO3 (10 mL) and brine (10 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to afford the title compound as a white solid.

reactant | 2-nitro-4-(trifluoromethyl)benzene-1-sulfonyl chloride | 1.73 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3ClF3NO4S
reactant | 1-methylpiperazine | 3.6 mmol, 0.40 mL | CN1CCNCC1 | C5H12N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-(2-nitro-4-(trifluoromethyl)phenylsulfonyl)piperazine | CN1CCN(CC1)S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C12H14F3N3O4S
